reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N:2]([C:3](=[O:4])[H:11])[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([O:4]/[C:3](=[N:2]/[C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],74.9321539842331
[N:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[H:10])([H:8])[H:9])[H:7])[H:11]>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,91.47650776444796
[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:7](=[C:6])[H:15])([H:8])([H:9])[H:10],64.7144557578834
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:5]([C:4]([H:13])([H:14])[H:15])=[O:6])([H:12])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9],77.8450821778579
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:14])[C@:7]([C:3](=[O:4])[H:11])([H:15])[C:6]1=[C:5]([H:12])[H:13],94.7289450579178
[C-:5]#[O+:6].[C:1]([H:7])([H:8])([H:9])[H:14].[C:2](=[C:3]([O:4][H:13])[H:12])([H:10])[H:11]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],79.00726690156259
[C:1]([O:2][C:3]([N:6]=[C:5]=[C:4]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],53.8004591783108
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:15])[C:3]([H:11])([H:12])[C@@:4]2([H:13])[O:5][C@:6]1([H:14])[C:7]2)([H:8])([H:9])[H:10],56.1257278157798
[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([H:10])[H:11])([N:5]=[C:4]=[C:3]([C:6]#[N:7])[H:12])([H:8])[H:9],85.09128042817359
[O+:1](=[C-:2][H:8])[C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],42.9384572920989
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[n:6][n:7]1[H:11])[H:8]>>[C:1]1([H:8])=[C:2]2/[C:3](=[N:7]\[H:11])[C@:4]12[H:9].[C:5](#[N:6])[H:10],114.55941414688401
[H:12][H:15].[N:1]([C:2](=[O:3])[C:4](/[C:5](=[C:6](\[O:7][H:16])[H:14])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],78.38208143330439
[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])[H:11])([H:7])[H:9].[H:8][H:10],114.561128798316
[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7]>>[O:1]([C:2]1=[N:6][C:5]([H:8])([H:9])[N:4]=[N:3]1)[H:7],49.5967966346774
[O:1](/[C:2](=[N:3]/[C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:8])[H:9]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],31.372492295017594
[C:3](=[O:4])=[C:5]([O:6][H:7])[H:8].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],35.6041571940426
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])=[C:6]=[N:7][O:3][H:11])([H:8])([H:9])[H:10],97.80323223426451
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C+:2]([O:3][H:11])=[C:4]([O-:5])[C:6]([H:12])([H:13])[H:14].[C:1]([H:7])([H:8])([H:9])[H:10],79.2950203299588
[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4][H:13])([O:6][C:5]([H:14])([H:15])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],91.2231479438707
[C:1]([N:7]([C:6]1=[C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]1)[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],92.3981594649578
[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])([H:7])[H:14].[C:2]([C:3]([H:9])([H:10])[H:11])(=[C:4]([H:12])[H:13])[H:8],112.159204809914
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2](=[O:3])[H:8])([O:6][C:5](=[C:4]([H:9])[H:10])[H:11])[H:7],78.2832332055472
[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C@:3]([C:5]#[N:6])([H:11])[O:4]1)([H:7])([H:8])[H:9],87.2623168250626
[C:1]([O:4][H:14])([H:8])([H:9])[H:10].[C:2](=[C:3]([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],90.91831306447621
